US09371336B2
6-Chloro-2-hydroxynicotinaldehyde (1.06 g, 6.76 mmol) was dissolved in DMSO (20 mL) at room temperature. The solution was treated with cis-2,6-dimethylpiperazine (1.16 g, 10.18 mmol) at room temperature. The reaction mixture was stirred at 100° C. for 3 hours and cooled to room temperature to yield crude 6-(cis-3,5-dimethylpiperazin-1-yl)-2-hydroxynicotinaldehyde. MS m/z 236 [M+H]+.

reactant | 6-Chloro-2-hydroxynicotinaldehyde | 6.76 mmol, 1.06 g | ClC1=NC(=C(C=O)C=C1)O | C6H4ClNO2
reactant | cis-2,6-dimethylpiperazine | 10.18 mmol, 1.16 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 6-(cis-3,5-dimethylpiperazin-1-yl)-2-hydroxynicotinaldehyde | C[C@@H]1CN(C[C@@H](N1)C)C1=NC(=C(C=O)C=C1)O | C12H17N3O2
